US07750145B2
1-(4-Ethoxybenzyl)-3-(β-D-glucopyranosyl)-5-methyl-1H-indole
To a mixture of 3-(β-D-glucopyranosyl)-1-(4-hydroxy-benzyl)-5-methyl-1H-indole (50 mg), cesium carbonate (82 mg) and sodium iodide (19 mg) in acetonitrile (1 mL) was added ethyl bromide (41 mg), and the mixture was stirred at 40° C. for 3 days. The reaction mixture was poured into 15% aqueous sodium chloride solution, and the resulting mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give the title compound (21 mg).

reactant | 3-(β-D-glucopyranosyl)-1-(4-hydroxy-benzyl)-5-methyl-1H-indole | 50 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CN(C2=CC=C(C=C12)C)CC1=CC=C(C=C1)O | C22H25NO6
reactant | cesium carbonate | 82 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 19 mg | [I-].[Na+]
reactant | ethyl bromide | 41 mg | C(C)Br | C2H5Br
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 1-(4-Ethoxybenzyl)-3-(β-D-glucopyranosyl)-5-methyl-1H-indole | 21 mg | C(C)OC1=CC=C(CN2C=C(C3=CC(=CC=C23)C)[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)C=C1 | C24H29NO6
